US07932270B2
To a solution of benzyl 4-((R)-2-((6-(2-cyanophenyl)-2-(2-(tetrahydro-2H-pyran-2-yl)ethylamino)nicotinamido)methyl)pyrrolidin-1-yl)-4-oxobutylcarbamate (47 mg, 0.072 mmol) in MeCN (1 mL) at 0° C. was added TMSI (72 mg, 0.36 mmol). The mixture was stirred at room temperature for 2 hrs and purified on RP-HPLC using a mixture of acetonitrile and H2O to give N—(((R)-1-(4-aminobutanoyl)pyrrolidin-2-yl)methyl)-6-(2-cyanophenyl)-2-(2-(tetrahydro-2H-pyran-2-yl)ethylamino)nicotinamide (36 mg, 77%). LRMS (M+H+) m/z 519.3.

reactant | benzyl 4-((R)-2-((6-(2-cyanophenyl)-2-(2-(tetrahydro-2H-pyran-2-yl)ethylamino)nicotinamido)methyl)pyrrolidin-1-yl)-4-oxobutylcarbamate | 0.072 mmol, 47 mg | C(#N)C1=C(C=CC=C1)C1=NC(=C(C(=O)NC[C@@H]2N(CCC2)C(CCCNC(OCC2=CC=CC=C2)=O)=O)C=C1)NCCC1OCCCC1 | C37H44N6O5
reactant | TMSI | 0.36 mmol, 72 mg | [Si](C)(C)(C)I | C3H9ISi
solvent | MeCN | 1 mL | CC#N | C2H3N
product | N—(((R)-1-(4-aminobutanoyl)pyrrolidin-2-yl)methyl)-6-(2-cyanophenyl)-2-(2-(tetrahydro-2H-pyran-2-yl)ethylamino)nicotinamide | 36 mg, 77% | NCCCC(=O)N1[C@H](CCC1)CNC(C1=C(N=C(C=C1)C1=C(C=CC=C1)C#N)NCCC1OCCCC1)=O | C29H38N6O3
